US04162274
968 g of the reaction product of bisphenol A-bis-glycidyl ether and acrylic acid (containing 3.7 gram equivalents of OH) described in Example 1 were dissolved in 850 g of methylene chloride, followed by the addition of 0.6 ml of a concentrated zinc octoate solution and another 0.5 g of p-methoxy phenol. 168 g of hexamethylene diisocyanate (2 gram equivalents of NCO) were then added dropwise while the solution was boiled under reflux. After 24 hours' refluxing, an NCO-content of 0.5% was determined and 128 g of succinic acid anhydride (1.28 gram equivalents of anhydride) were added to the boiling solution. After another 12 hours, a clear solution was obtained to which 25.8 g of tert.-butyl anthraquinone (photoinitiator) were added, and the solution was left to cool.

reactant | bisphenol A bis-glycidyl ether | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.C(C1CO1)OCC1CO1
reactant | acrylic acid | 3.7 gram | C(C=C)(=O)O | C3H4O2
reactant | hexamethylene diisocyanate | 168 g | C(CCCCCN=C=O)N=C=O | C8H12N2O2
reactant | succinic acid anhydride | 128 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | methylene chloride | 850 g | C(Cl)Cl | CH2Cl2
catalyst | zinc octoate | 0.6 ml | CCCCCCCC(=O)[O-].CCCCCCCC(=O)[O-].[Zn+2]
catalyst | p-methoxy phenol | 0.5 g | COC1=CC=C(C=C1)O | C7H8O2
product | tert.-butyl anthraquinone | 25.8 g | C(C)(C)(C)C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C18H16O2
